US04680303
To a solution of ferric nitrate (1.2 g) in liquid ammonia (700 cc) maintained boiling, sodium (23 g) is added in the course of 1 hour 5 minutes. After 25 minutes' stirring, a solution of 2-(6-methyl-2-pyridyl)tetrahydrothiopyran 1-oxide (106 g) in anhydrous tetrahydrofuran (500 cc) is added dropwise in the course of 40 minutes. The reaction mixture is stirred for 15 minutes; a solution of methyl isothiocyanate (74.7 g) in anhydrous tetrahydrofuran (400 cc) is then added dropwise in the course of 25 minutes. The reaction mixture is stirred for 30 minutes and is then cooled to -40° C. Ammonium chloride (70 g in total) is then added in 3 portions and stirring is then maintained for 15 hours so as to evaporate the ammonia, the temperature being allowed to rise gradually to about 20° C. Distilled water (600 cc) and ethyl acetate (650 cc) are then added to the mixture. After 15 minutes' stirring, the crystals which appear are separated by filtration, washed 3 times with ethyl acetate (180 cc in total) and 6 times with isopropyl ether (900 cc in total), and then dried under reduced pressure (0.3 mm Hg; 0.04 kPa) at a temperature in the region of 20° C. A first batch (45 g) of N-methyl-2-(6-methyl-2-pyridyl)-2-tetrahydrothiopyrancarbothioamide 1-oxide, m.p. 234° C., is thereby obtained. After decantation of the filtrate, the organic phase and the ethyl acetate washing liquors are combined, washed 3 times with distilled water (1500 cc), and dried over anhydrous magnesium sulphate, decolorising charcoal is added and the mixture is filtered and concentrated to dryness under reduced pressure (25 mm Hg; 3.25 kPa). The product obtained (125 g) is dissolved in ethyl acetate (400 cc) and then kept for 15 hours at a temperature in the region of 5° C. The crystals which appear are separated by filtration, washed twice with ethyl acetate (60 cc in total) and 5 times with isopropyl ether (300 cc in total) and dried under reduced pressure (0.2 mm Hg; 0.026 kPa) at a temperature in the region of 20° C. A second batch (17.8 g) of N-methyl-2-(6-methyl-2-pyridyl)-2-tetrahydrothiopyrancarbothioamide 1-oxide, m.p. 234° C., is thereby obtained.

reactant | ammonia | 700 cc | N | H3N
reactant | sodium | 23 g | [Na] | Na
reactant | 2-(6-methyl-2-pyridyl)tetrahydrothiopyran 1-oxide | 106 g | CC1=CC=CC(=N1)C1S(CCCC1)=O | C11H15NOS
reactant | methyl isothiocyanate | 74.7 g | CN=C=S | C2H3NS
reactant | Ammonium chloride | 70 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 cc | O1CCCC1 | C4H8O
product | N-methyl-2-(6-methyl-2-pyridyl)-2-tetrahydrothiopyrancarbothioamide 1-oxide | 45 g | CNC(=S)C1(S(CCCC1)=O)C1=NC(=CC=C1)C | C13H18N2OS2
